US05571775
56. Preparation of 4-Ethoxy-2-fluoropyridine
To a solution of 60.5 g (0.31 mol) of 3,5-dichloro-4-ethoxy-2-fluoropyridine and 32.2 g (0.32 mol) of sodium acetate in 400 mL of ethanol in a L stirred steel Parr bomb was added 3 g of 5 percent palladium on carbon catalyst. The reactor was charged with 500 pounds per square inch gauge (3550 kiloPascals) of hydrogen and heated with stirring to 100° C. for 4 hr. The mixture was cooled, filtered, and concentrated by evaporation. The residue was dissolved in ether and the resulting solution was dried over magnesium sulfate, filtered, and concentrated by evaporation. The residue was purified by bulb to bulb distillation (60°-80° C. at 0.5 mm Hg (67 Pascals ) to obtain 18.5 g (42 percent of theory ) of the title compound as a colorless oil which solidified upon standing and melted at 35 °-36° C.

reactant | 3,5-dichloro-4-ethoxy-2-fluoropyridine | 0.31 mol, 60.5 g | ClC=1C(=NC=C(C1OCC)Cl)F | C7H6Cl2FNO
reactant | sodium acetate | 0.32 mol, 32.2 g | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 400 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 3 g | [Pd] | Pd
product | 4-Ethoxy-2-fluoropyridine | C(C)OC1=CC(=NC=C1)F | C7H8FNO
